US04711905
3.47 g (0.02 mol) of 2-chloro-4-fluorobenzamide and 7.2 g (0.022 mol) of 3-chloro-4-(2-chloro-1,1,2-trifluoroethoxy)-phenyl isocyanate are melted for two hours at 180° C., in the presence of one drop of dibutyl-tin dilaurate. After the mixture has been cooled, the solid product is comminuted in hot methanol, and the product is filtered off under suction and dried. 7.2 g (76.5% of theory) of 1-(2-chloro-4-fluoro-benzoyl)-3-(3-chloro-4-(2-chloro-1,1,2-trifluoro-ethoxy)-phenyl)-urea of melting point 186° C. are obtained.

reactant | 2-chloro-4-fluorobenzamide | 0.02 mol, 3.47 g | ClC1=C(C(=O)N)C=CC(=C1)F | C7H5ClFNO
reactant | 3-chloro-4-(2-chloro-1,1,2-trifluoroethoxy)-phenyl isocyanate | 0.022 mol, 7.2 g | ClC=1C=C(C=CC1OC(C(F)Cl)(F)F)N=C=O | C9H4Cl2F3NO2
catalyst | dibutyl-tin dilaurate | one drop | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | methanol | CO | CH4O
product | 1-(2-chloro-4-fluoro-benzoyl)-3-(3-chloro-4-(2-chloro-1,1,2-trifluoro-ethoxy)-phenyl)-urea | 7.2 g, 76.5% | ClC1=C(C(=O)NC(=O)NC2=CC(=C(C=C2)OC(C(F)Cl)(F)F)Cl)C=CC(=C1)F | C16H9Cl3F4N2O3
